US07217697B2
To a solution of 2-benzyloxybromobenzene (1.66 g) in tetrahydrofuran (50 mL) was added tert-butyllithium (1.6 mol/L pentane solution, 4.33 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 5 minutes. To the reaction mixture was added a solution of 1-(2-benzoyloxyethyl)-3-benzyloxy-4-formyl-5-isopropyl-1H-pyrazole (620 mg) in tetrahydrofuran (5 mL), and the mixture was stirred at 0° C. for 30 minutes. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/1–2/1) to give 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol (448 mg). To a solution of 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol (448 mg) in methanol (5 mL) was added 10% palladium-carbon powder (448 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (220 mg).

reactant | 2-benzyloxybromobenzene | 1.66 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | tert-butyllithium | 1.6 mol/L, 4.33 mL | C(C)(C)(C)[Li]
reactant | 1-(2-benzoyloxyethyl)-3-benzyloxy-4-formyl-5-isopropyl-1H-pyrazole | 620 mg | C(C1=CC=CC=C1)(=O)OCCN1N=C(C(=C1C(C)C)C=O)OCC1=CC=CC=C1 | C23H24N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol | 448 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1C(O)C1=C(C=CC=C1)OCC1=CC=CC=C1)C(C)C)CCO | C29H32N2O4
